US06348474B1
5-Bromo-3-(2-chloro-4-(cyclohexyloxycarbonyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine
To a solution of 5-bromo-3-(2-chloro-4-carboxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (525 mg) in dichloromethane (5 ml) were added oxalyl chloride (0.36 ml) and N,N-dimethylformamide (0.03 ml), and the mixture was stirred at room temperature for 1 hr and concentrated under reduced pressure. Dichloromethane (5 ml) was added and dissolved, and trimethylamine (698 mg), 4-dimethylaminopyridine (10 mg) and cyclohexanol (1.38 g) were successively added under ice-cooling. The mixture was stirred under ice-cooling for 30 min and at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure, and water and ethyl acetate were added for partitioning. The organic layer was successively washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Hexane (20 ml) was added to the residue and the mixture was heated. The black insoluble matter was removed by filtration and the filtrate was allowed to cool. The precipitated crystals were collected by filtration, dried under reduced pressure and by heating to give the objective compound (533 mg) as colorless crystals.

reactant | 5-bromo-3-(2-chloro-4-carboxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 525 mg | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C(=O)O)Cl | C15H11BrClN3O2
reactant | oxalyl chloride | 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.03 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Bromo-3-(2-chloro-4-(cyclohexyloxycarbonyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 533 mg | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C(=O)OC2CCCCC2)Cl | C21H21BrClN3O2
